US07091227B2
N-[7-(4-Bromoanilino)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea
A suspension of N-(6-bromo-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-N′-ethylurea (50 mg, 0.16 mmol) and 4-bromo-phenyl-thiourea (36 mg, 0.16 mmol) in THF (1.0 mL) was heated to about 65° C. for about 1.5 hrs. The reaction mixture was pumped down and used in the next step without further purification.

reactant | N-(6-bromo-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-N′-ethylurea | 0.16 mmol, 50 mg | BrC1C(C2=C(N=C(S2)NC(=O)NCC)CC1)=O | C10H12BrN3O2S
reactant | 4-bromo-phenyl-thiourea | 0.16 mmol, 36 mg | BrC1=CC=C(C=C1)NC(=S)N | C7H7BrN2S
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | N-[7-(4-Bromoanilino)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea | BrC1=CC=C(NC=2SC3=C(C4=C(N=C(S4)NC(=O)NCC)CC3)N2)C=C1 | C17H16BrN5OS2
